US06903101B1
Preparation of 1-(4-chlorophenylamino)-4-(3-pyridylmethoxy)phthalazine
A dry 50-mL round-bottomed flask was equipped with a stir bar and an argon inlet. The flask was charged with 1-chloro-4-(4-chlorophenylamino)-phthalazine (R. D. Haworth and S. Robinson, J. Chem. Soc. 1948, pp.777-782) (2.00 g; ˜6.12 mmol), 3-pyridyl-carbinol (Aldrich) (10.02 g, 91.85 mmol), and DBU (18.3 mL, ˜18.7 g, ˜123 mmol). The reaction was heated at 125 C for 28 h. The mixture was cooled to room temperature and distilled water (400 mL) was added with stirring. The aqueous phase was extracted with ethyl acetate (3×300 mL). The combined organics were dried (MgSO4) and concentrated to yield a tan solid, which was purified by silica gel chromatography (100% dichloromethane→50% acetone/dichloromethane) to give the clean desired compound as a white solid (1.24 g, 3.42 mmol; 56% yield). TLC (20% acetone/dichloromethane): Rf=0.48.

reactant | 1-chloro-4-(4-chlorophenylamino)-phthalazine | ˜6.12 mmol, 2.00 g | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)Cl | C14H9Cl2N3
reactant | 3-pyridyl-carbinol | 91.85 mmol, 10.02 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | DBU | ˜123 mmol, 18.3 mL, ˜18.7 g | C1CCC2=NCCCN2CC1 | C9H16N2
product | 1-(4-chlorophenylamino)-4-(3-pyridylmethoxy)phthalazine | 3.42 mmol, 1.24 g, 56% yield | ClC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)OCC=1C=NC=CC1 | C20H15ClN4O
